US07709473B2
To a stirred solution of 7.1 g of (3-chloro-pyrazin-2-yl)-hydrazine hydrochloride (J. Org. Chem., 29, 3452 (1968)), in CH2Cl2 at 0° C. was slowly added 21.0 g of trifluoroacetic anhydride. The reaction was warmed to ambient temperature over 30 min. and then poured into water. The layers were separated and the aqueous layer was extracted with methylene chloride. The combined organic layers were washed with water, dried over magnesium sulfate, filtered, and concentrated and the residue was purified by silica gel chromatography to afford trifluoroacetic acid N′-(3-chloro-pyrazin-2-yl)-hydrazide as a yellow solid. MS (M+H+)=241.2.

reactant | (3-chloro-pyrazin-2-yl)-hydrazine hydrochloride | 7.1 g | Cl.ClC=1C(=NC=CN1)NN
reactant | trifluoroacetic anhydride | 21.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | trifluoroacetic acid N′-(3-chloro-pyrazin-2-yl)-hydrazide | ClC=1C(=NC=CN1)NNC(C(F)(F)F)=O | C6H4ClF3N4O
